US07923450B2
a) 6-[1-Dimethylamino-methylidene]-2-(4-chloro-phenyl)-cyclohexanone (U15a)
2-(4-Chloro-phenyl)-cyclohexanone (104 mg, 0.5 mmol) was reacted with tert.-butoxy-bis-(dimethylamino)-methane using in analogous manner the procedure described in example 45a) to give crude title compound (134 mg) as a red oil which was used directly in the next step. MS ISP (m/e): 264.0 [(M+H)+].

reactant | 2-(4-Chloro-phenyl)-cyclohexanone | 0.5 mmol, 104 mg | ClC1=CC=C(C=C1)C1C(CCCC1)=O | C12H13ClO
reactant | tert.-butoxy-bis-(dimethylamino)-methane | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 6-[1-Dimethylamino-methylidene]-2-(4-chloro-phenyl)-cyclohexanone | 134 mg | CN(C=C1CCCC(C1=O)C1=CC=C(C=C1)Cl)C | C15H18ClNO
